US04772600
2-(4-Chlorophenyl)-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole (2.27 g, 0.014 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Then, under nitrogen atmosphere, pyrrolidine (1.99 g, 0.028 mole) was added and the reaction mixture was allowed to stir at room temperature over the weekend. The precipitate which had formed was filtered and the filtrate was evaporated to dryness. The solid residue was triturated with water and dried under high vacuum at 50° C. overnight. The solid was recrystallized from isopropyl alcohol with refrigeration. The precipitate was collected by filtration, washed with cold isopropyl alcohol and water, and dried under high vacuum at room temperature overnight to give 2.84 g (60%) of title compound, mp 224°-225° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyrrolidine | 0.028 mole, 1.99 g | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | 2.84 g, 60% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(N1CCCC1)=O | C18H17ClN4O
